US07253198B2
To a solution of methyl 3-{[(3-chloropropyl)sulfonyl]amino}-2-fluoro-5-nitrobenzoate (D145) (300 mg, 0.85 mmol, 1 equiv) in EtOH (30 ml) was added NEt3 (280 μl, 2 mmol, 2.3 equiv) and the resulting solution was refluxed for 1.5 h then cooled to room temperature and concentrated in vacuo. The residue was dissolved in AcOEt and the organic phase was washed with a 2N aqueous HCl solution, dried over MgSO4 and concentrated in vacuo. The residue was triturated with AcOEt/Et2O to give methyl 3-(1,1-dioxido-2-isothiazolidinyl)-2-fluoro-5-nitrobenzoate (D147) (150 mg, 55%) as a light tan solid which was used in the next step without further purification. [M+H+ NH3]+=336.3, RT=2.50 min.

reactant | methyl 3-{[(3-chloropropyl)sulfonyl]amino}-2-fluoro-5-nitrobenzoate | 0.85 mmol, 300 mg, 1 equiv | ClCCCS(=O)(=O)NC=1C(=C(C(=O)OC)C=C(C1)[N+](=O)[O-])F | C11H12ClFN2O6S
reactant | NEt3 | 2 mmol, 280 μl, 2.3 equiv | CCN(CC)CC | C6H15N
solvent | EtOH | 30 ml | CCO | C2H6O
product | methyl 3-(1,1-dioxido-2-isothiazolidinyl)-2-fluoro-5-nitrobenzoate | 150 mg, 55% | O=S1(N(CCC1)C=1C(=C(C(=O)OC)C=C(C1)[N+](=O)[O-])F)=O | C11H11FN2O6S
